US08624040B2
Synthesis of N2-hydroxy-7,7-dimethyl-N5-[(1S)-1-phenylethyl]-6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxamide (Compound 201)
A solution of 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide (31 mg, 0.1 mmol) and triethylamine (41.8 μL, 0.3 mmol) in 1,2-dichloroethane (1 mL) was added (S)-1-phenylethyl isocyanate (22.1 mg, 0.15 mmol). The reaction was stirred at room temperature overnight. The solution was evaporated to dryness and the residue obtained was redissolved in tetrahydrofuran (1 mL). 4.0 M of hydrochloric acid in 1,4-dioxane (1 mL, 4 mmol) was added and the reaction solution was stirred at room temperature for 2 hours. The solution was evaporated to dryness, redissolved in DMSO (1 mL) and purified on an Agilent 1100 LC/MSD instrument to afford the title compound (17.8 mg, 46%). LCMS (FA) ES+ 374; 1H NMR (400 MHz, MeOD) δ 7.35-7.24 (m, 5H), 7.20-7.15 (m, 1H), 5.01-4.91 (m, 1H), 4.50 (d, J=4.0 Hz, 2H), 3.50 (d, J=4.6 Hz, 2H), 1.47 (d, J=7.1 Hz, 3H), 1.30 (s, 6H).

reactant | 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide | 0.1 mmol, 31 mg | CC1(C2=C(CNC1)C=C(S2)C(=O)NOC2OCCCC2)C | C15H22N2O3S
reactant | triethylamine | 0.3 mmol, 41.8 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-1-phenylethyl isocyanate | 0.15 mmol, 22.1 mg | C1(=CC=CC=C1)[C@H](C)N=C=O | C9H9NO
reactant | hydrochloric acid | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N2-hydroxy-7,7-dimethyl-N5-[(1S)-1-phenylethyl]-6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxamide | 17.8 mg, 46% | ONC(=O)C1=CC=2CN(CC(C2S1)(C)C)C(=O)N[C@@H](C)C1=CC=CC=C1 | C19H23N3O3S
